US07432260B2
N-{5-[2-(3-Methoxy-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-3-morpholin-4-yl-propionamide [39].
By treatment of 3-bromo-N-{5-[2-(3-methoxyphenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-propionamide with morpholine. Anal. RP-HPLC: tR=13.6 min (0-60% MeCN, purity>94%). 1H-NMR (DMSO-D6) δ: 1.20 (m, 2H, CH2), 2.48 (m, 4H, CH2), 2.58 (s, 3H, CH3), 3.41-3.57 (m, 6H, CH2), 3.79 (s, 3H, CH3), 6.52 (d, 1H, J=7.0 Hz, Ph-H), 7.07 (d, 1H, J=5.4 Hz, pyrimidinyl-H), 7.15 (t, 1H, J=7.3 Hz, Ph-H), 7.22 (m, 1H, Ph-H), 7.62 (brs, 1H, Ph-H), 8.46 (d, 1H, J=5.5 Hz, pyrimidinyl-H), 9.58 (brs, 1H, NH). MS (ESI+) m/z 456.01 [M+H]+ (C22H26N6SO3 requires 454.55).

reactant | 3-bromo-N-{5-[2-(3-methoxyphenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-propionamide | BrCCC(=O)NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC(=CC=C1)OC | C18H18BrN5O2S
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | MeCN | CC#N | C2H3N
product | N-{5-[2-(3-Methoxy-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-3-morpholin-4-yl-propionamide | COC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=C(N=C(S1)NC(CCN1CCOCC1)=O)C | C22H26N6O3S
